US07396952B2
217.5 g (478.5 mmol) of hexadecyl (2-bromo-4-methylphenyl)carbamate, 0.5 g (0.7 mmol) of bis(triphenylphosphine)palladium dichloride and 2.5 g (9.3 mmol) of triphenylphosphine were introduced into an autoclave. The autoclave was closed, flushed with nitrogen and an oxygen-free solution of 78.1 g (565.3 mmol) of potassium carbonate in 400 ml of water is added. The autoclave is evacuated and then 2 bar of carbon monoxide are injected and heated to 115° C. The pressure is subsequently adjusted to 8 bar. After CO uptake ceases, the mixture is cooled to RT and 200 ml of toluene are added. The pH is adjusted to 2 with 2M aqueous HCl solution, and the organic phase is separated off. The aqueous phase is extracted anew with 100 ml of toluene, the organic phase is separated off, and the two toluene extracts are combined. Removal of the solvent in vacuo results in 154.9 g (369.2 mmol, 77%) of 2-hexadecyloxycarbonylamino-5-methylbenzoic acid in the form of a pale yellow-coloured solid.

reactant | hexadecyl (2-bromo-4-methylphenyl)carbamate | 478.5 mmol, 217.5 g | BrC1=C(C=CC(=C1)C)NC(OCCCCCCCCCCCCCCCC)=O | C24H40BrNO2
reactant | oxygen | O=O | O2
reactant | potassium carbonate | 565.3 mmol, 78.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 400 ml | O | H2O
catalyst | bis(triphenylphosphine)palladium dichloride | 0.7 mmol, 0.5 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | triphenylphosphine | 9.3 mmol, 2.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 2-hexadecyloxycarbonylamino-5-methylbenzoic acid | 369.2 mmol, 154.9 g, 77% | C(CCCCCCCCCCCCCCC)OC(=O)NC1=C(C(=O)O)C=C(C=C1)C | C25H41NO4
